US09107916B2
A. methyl 4-fluoro-3-[(4-fluorophenyl)methoxy]benzoate
Charge methyl 4-fluoro-3-hydroxybenzoate (519 mg, 3.05 mmol), 4-(bromomethyl)-1-fluorobenzene (577 mg, 3.05 mmol), K2CO3 (843 mg, 6.10 mmol) and ethanol (10 mL) to a flask. The mixture was then stirred at room temperature overnight. Water was added to the reaction mixture at 0° C., filtered, and the solid dried and purified by flash column chromatograph to give 571 mg of the title compound (67%). 1H NMR (400 MHz, CDCl3): δ 3.90 (3H, s), 5.13 (2H, s), 7.06-7.15 (3H, m), 7.41-7.45 (2H, m), 7.63-7.67 (1H, m), 7.71 (1H, dd, J=2.0 Hz, 8.4 Hz).

reactant | methyl 4-fluoro-3-hydroxybenzoate | 3.05 mmol, 519 mg | FC1=C(C=C(C(=O)OC)C=C1)O | C8H7FO3
reactant | 4-(bromomethyl)-1-fluorobenzene | 3.05 mmol, 577 mg | BrCC1=CC=C(C=C1)F | C7H6BrF
reactant | K2CO3 | 6.10 mmol, 843 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | ethanol | 10 mL | C(C)O | C2H6O
solvent | Water | O | H2O
product | methyl 4-fluoro-3-[(4-fluorophenyl)methoxy]benzoate | 571 mg, 67% | FC1=C(C=C(C(=O)OC)C=C1)OCC1=CC=C(C=C1)F | C15H12F2O3
